US04742057
In hot ethanol (80 ml) was dissolved 4-[2-[4-(3-indolyl)piperidino]ethyl]-2-mesylaminothiazole (0.5 g). After the solution was cooled to ambient temperature, 15% solution of hydrogen chloride in ethanol (3 ml) was added, followed by cooling to 5° C. The resulting precipitate was collected by filtration and washed with ethanol. This precipitate was recrystallized from water (50 ml) to give 4-[2-[4-(3-indolyl)piperidino]ethyl]-2-mesylaminothiazole hydrochloride (0.42 g).

reactant | 4-[2-[4-(3-indolyl)piperidino]ethyl]-2-mesylaminothiazole | 0.5 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC=1N=C(SC1)NS(=O)(=O)C | C19H24N4O2S2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 4-[2-[4-(3-indolyl)piperidino]ethyl]-2-mesylaminothiazole hydrochloride | 0.42 g | Cl.N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCC=1N=C(SC1)NS(=O)(=O)C | InChI=1S/C19H24N4O2S2.ClH/c1-27(24,25)22-19-21-15(13-26-19)8-11-23-9-6-14(7-10-23)17-12-20-18-5-3-2-4-16(17)18;/h2-5,12-14,20H,6-11H2,1H3,(H,21,22);1H
